US06509361B1
Preparation of 2-Chloro-4-[3-methyl-1-(4-methylphenyl)-1H-pyrazol-5-yl]pyridine
A mixture of 1-(2-chloro-4-pyridinyl)-1,3-butanedione (7 g, 35.25 mmol), paratolylhydrazine.HCl (6.13 g, 38.78 mmol) and triethylamine (5.41 mL, 38.78 mmol) in methanol (100 mL) was heated to reflux overnight. The resulting dark colored solution was cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate and brine, and dried over magnesium sulfate. After filtration, the solution was concentrated to give a brown solid. The solid was purified by column chromatography (silica gel, 2:8 EtOAc/hexane) to yield the titled product (3.6 g, 52%) as a crystalline light brown solid. MP: 100.07° C. Anal. Calc'd for C16H14N3Cl: C, 67.72, H, 4.97, N, 14.81. Found: C 67.40, H, 4.89, N, 14.59.

reactant | 1-(2-chloro-4-pyridinyl)-1,3-butanedione | 35.25 mmol, 7 g | ClC1=NC=CC(=C1)C(CC(C)=O)=O | C9H8ClNO2
reactant | paratolylhydrazine | C1(=CC=C(C=C1)NN)C | C7H10N2
reactant | HCl | 38.78 mmol, 6.13 g | Cl | ClH
reactant | triethylamine | 38.78 mmol, 5.41 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 mL | CO | CH4O
product | 2-Chloro-4-[3-methyl-1-(4-methylphenyl)-1H-pyrazol-5-yl]pyridine | 3.6 g, 52% | ClC1=NC=CC(=C1)C1=CC(=NN1C1=CC=C(C=C1)C)C | C16H14ClN3
